US04898694
H. 16β-methyl-5-androsten-17β-ol
Sodium borohydride is added to the 16β-methly-5-androsten-17-one(produced in F hereinabove) according to the procedure described in Example 8F to form mostly the above-identified final product and a smaller amount of 16β-methly-5-androsten-17α-ol which are separated by HPLC on a silica gel column.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 16β-methly-5-androsten-17-one | C[C@@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC2)=O | C20H30O
product | 16β-methyl-5-androsten-17β-ol | C[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC2)O | C20H32O
